US07423185B2
Methyl 2,5-dimethyl-4-trifluoromethanesulfonyloxybenzoate
Trifluoromethanesulfonic anhydride (0.27 g) was added to an ice-cooled mixture of methyl 4-hydroxy-2,5-dimethylbenzoate (0.144 g) and pyridine (0.095 g) in methylene chloride (10 mL) with stirring. The mixture was stirred at room temperature for 30 min, and poured into a mixture of ethylacetate and 2 mol/L hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:n-hexane:ethyl acetate=10/1) to afford the title compound (0.226 g).

reactant | Trifluoromethanesulfonic anhydride | 0.27 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 4-hydroxy-2,5-dimethylbenzoate | 0.144 g | OC1=CC(=C(C(=O)OC)C=C1C)C | C10H12O3
reactant | pyridine | 0.095 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Methyl 2,5-dimethyl-4-trifluoromethanesulfonyloxybenzoate | 0.226 g | CC1=C(C(=O)OC)C=C(C(=C1)OS(=O)(=O)C(F)(F)F)C | C11H11F3O5S
